* FDR8321L ELECTRICAL MODEL (SSOT-8 Integrated Loadswitch)
* -----------------------
.SUBCKT  Q1  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={0.9*(-0.00232*TEMP+1.058)}  KP={-0.0005*TEMP+0.32}  THETA=0.096
+ VMAX=3.8E5  LEVEL=3)
Cgs     1    3    90p
Rd     20    4    .7 TC=0.006
Dds     3    4    DDS
.MODEL     DDS    D(BV={25*(0.001*TEMP+0.975)}   M=0.36  CJO=23p   VJ=0.8)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    .7 TC=0.006
Rs      3    5    10m
Ls      5    30   .7n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    25p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.53   CJO=25p   VJ=0.4)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
Dzener     30	10    Dzener
.MODEL     Dzener    D(BV=8V)
.ENDS Q1
*
* Q2 ELECTRICAL MODEL
* -------------------
.SUBCKT Q2  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-0.9*{-0.0032*TEMP+1.08}}  KP={-0.02*TEMP+14.5}
+ THETA=0.086  VMAX=4E5  LEVEL=3)
Cgs     1    3    1200p
Rd     20    4    18m TC=0.0044
Dds     4    3    DDS
.MODEL     DDS    D(BV={20*{0.00064*TEMP+0.984}}   M=0.3  CJO=600p   VJ=0.8)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    18m TC=0.0044
Rs      3    5    1m
Ls      5    30   0.5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    2000p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.65   CJO=2000p   VJ=0.15)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS Q2
